US08981085B2
A solution of tert-butyl 5-(5-bromo-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)hexahydropyrrolo[3,4-b]pyrrole-1(2H)-carboxylate (0.070 g, 0.13 mmol) in DCM (3 mL) was treated with TFA (1 mL) followed by 1M HCl in ether as described in Example 62, Step C, to provide N-(5-bromo-4-(hexahydropyrrolo[3,4-b]pyrrol-5(1H)-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride (20 mg, 28% yield). 1H NMR (400 MHz, D2O) δ 9.15 (s, 1H), 8.84-8.83 (m, 1H), 8.78-8.75 (m, 1H), 8.24 (s, 1H), 8.00-7.96 (m, 1H), 7.43 (s, 1H), 4.15-4.11 (m, 1H), 3.97-3.92 (m, 1H), 3.73-3.69 (m, 1H), 3.65-3.61 (m, 1H), 3.54-3.50 (m, 1H), 3.27-3.23 (m, 2H), 2.91-2.87 (m, 1H), 2.00-2.94 (m, 1H), 1.88-1.86 (m, 1H); LCMS (APCI+) m/z 427, 429 (M+H)+.

reactant | tert-butyl 5-(5-bromo-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)hexahydropyrrolo[3,4-b]pyrrole-1(2H)-carboxylate | 0.13 mmol, 0.070 g | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC=C2)=O)N2CC1N(CCC1C2)C(=O)OC(C)(C)C | C24H27BrN6O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 1M | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-(5-bromo-4-(hexahydropyrrolo[3,4-b]pyrrol-5(1H)-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride | 20 mg, 28% yield | Cl.BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC=C2)=O)N2CC1NCCC1C2 | InChI=1S/C19H19BrN6O.ClH/c20-13-7-23-18-16(17(13)26-9-12-3-5-22-15(12)10-26)14(8-24-18)25-19(27)11-2-1-4-21-6-11;/h1-2,4,6-8,12,15,22H,3,5,9-10H2,(H,23,24)(H,25,27);1H
